US06521643B1
To a suspension of 3-dimethylamino-1-(4-methylpyridin-2-yl)prop-2-en-1-one (0.78 g) and cyanoguanidine (1.38 g) in ethanol (8 ml) was added a solution of sodium methoxide in methanol (28%, 1.49 ml), and the mixture was refluxed for 2 hours. The mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate and tetrahydrofuran (3:1). The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 75 g, 10% methanol in dichloromethane). The solid obtained was triturated with 2-propanol, filtered and dried to give N-(4-(4-methylpyridin-2-yl)-pyrimidin-2-yl)cyanamide (325 mg).

reactant | 3-dimethylamino-1-(4-methylpyridin-2-yl)prop-2-en-1-one | 0.78 g | CN(C=CC(=O)C1=NC=CC(=C1)C)C | C11H14N2O
reactant | cyanoguanidine | 1.38 g | C(#N)NC(=N)N | C2H4N4
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | methanol | 1.49 ml | CO | CH4O
product | N-(4-(4-methylpyridin-2-yl)-pyrimidin-2-yl)cyanamide | 325 mg | CC1=CC(=NC=C1)C1=NC(=NC=C1)NC#N | C11H9N5
